US05210092
A mixture of 2-hydroxy-4'-methylbenzophenone (18.3 g), chloroacetonitrile (7.87 g) and potassium carbonate (14.2 g) in N,N'-dimethylformamide (183 ml) was stirred at ambient temperature for 5 hours and then poured into ice water. The separated oil was extracted with dichloromethane (×2). The organic layer were washed with water (×3), dried and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted with dichloromethane to give 2-cyanomethoxy-4'-methylbenzophenone (21.3 g) as a yellow oil.

reactant | 2-hydroxy-4'-methylbenzophenone | 18.3 g | OC1=C(C(=O)C2=CC=C(C=C2)C)C=CC=C1 | C14H12O2
reactant | chloroacetonitrile | 7.87 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 14.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N'-dimethylformamide | 183 ml | CN(C)C=O | C3H7NO
product | 2-cyanomethoxy-4'-methylbenzophenone | 21.3 g | C(#N)COC1=C(C(=O)C2=CC=C(C=C2)C)C=CC=C1 | C16H13NO2
